US06544985B2
A mixture of 3-[5-(2-hydroxy-ethyl)-[1,3,4]thiadiazol-2-yl]-benzoic acid methyl ester (1.86 g), dihydropyrane (0.95 mL) and p-toluenesulfonic acid hydrate (0.13 g) in AcOEt (25 mL) was stirred at 20° C. for 1 h. The solution was diluted with AcOEt, washed with 5% NaHCO3 solution and with brine, dried and evaporated in vacuum. The residual oil was purified by chromatography on silica gel using AcOEt/hexane (1:2) as eluent to give 3-{5-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-[1,3,4]thiadiazol-2-yl]-benzoic acid methyl ester (1.60 g) as a pale-yellow oil.

reactant | 3-[5-(2-hydroxy-ethyl)-[1,3,4]thiadiazol-2-yl]-benzoic acid methyl ester | 1.86 g | COC(C1=CC(=CC=C1)C=1SC(=NN1)CCO)=O | C12H12N2O3S
reactant | dihydropyrane | 0.95 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid hydrate | 0.13 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | AcOEt | 25 mL | CCOC(=O)C | C4H8O2
product | 3-{5-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-[1,3,4]thiadiazol-2-yl]-benzoic acid methyl ester | 1.60 g | COC(C1=CC(=CC=C1)C=1SC(=NN1)CCOC1OCCCC1)=O | C17H20N2O4S
